US05578627
To a solution of 0.7 g of 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole in 7 ml of N,N-dimethylformamide are added 0.307 g of triethylamine and 0.55 g of di-tert-butyl dicarbonate at room temperature, and they are subjected to reaction at the same temperature for 1.5 hours. Subsequently, water and ethyl acetate are added to adjust the pH to 3.0, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and then dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. Diisopropyl ether is added to the residue obtained and, after stirring, the crystals precipitated are collected by filtration, to obtain 0.46 g of colorless, solid 3-[2-tert-butoxycarbonylamino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole.

reactant | 3-[2-amino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | 0.7 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | C15H13ClN2O3
reactant | triethylamine | 0.307 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[2-tert-butoxycarbonylamino-2-(3-hydroxyphenyl)ethoxy]-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)C2=CC(=CC=C2)O | C20H21ClN2O5
